US08247401B2
Step B: 5-Fluoropyridine-2-carbaldehyde
To a solution of ethyl 5-fluoropyridine-2-carboxylate (25 g, 148 mmol) in tetrahydrofuran (250 mL) at −78° C. was added dropwise diisobutylaluminum hydride (1.0 M in hexanes; 296 mL, 296 mmol). After 1 h, the reaction was quenched with ethyl alcohol (10 mL). Saturated aqueous sodium potassium tartrate tetrahydrate (1.3 L) was added and the aqueous layer was extracted with ethyl acetate (2×). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered. The solution mixture (1.4 L) was carried onto the next step without concentration. MS 125.9 (M+1).

reactant | ethyl 5-fluoropyridine-2-carboxylate | 148 mmol, 25 g | FC=1C=CC(=NC1)C(=O)OCC | C8H8FNO2
reactant | diisobutylaluminum hydride | 296 mmol, 1.0 M, 296 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 5-Fluoropyridine-2-carbaldehyde | FC=1C=CC(=NC1)C=O | C6H4FNO
